US08378104B2
Step B: N-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazol-2-amine
A solution of 7-bromo-N-methyl-1,3-benzothiazol-2-amine (56 mg, 0.23 mmol), bis(pinacolato)diboron (292 mg, 1.15 mmol), potassium acetate (158 mg, 1.61 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (38 mg, 0.046 mmol) in 1,4-dioxane (6 mL) was heated to 100° C. for 2 h. EtOAc was added to the mixture and the solution was filtered. The organic fraction was washed by water and brine. The crude mixture was purified by ISCO chromatography (0 to 50% EtOAc:heptane) to afford 51 mg (76%) of the title compound as yellow oil. MS (ESI): 291.53 [M+H]+; HPLC tR=1.03 min (HPLC: Anayltical—2 min).

reactant | 7-bromo-N-methyl-1,3-benzothiazol-2-amine | 0.23 mmol, 56 mg | BrC1=CC=CC=2N=C(SC21)NC | C8H7BrN2S
reactant | bis(pinacolato)diboron | 1.15 mmol, 292 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.61 mmol, 158 mg | C(C)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazol-2-amine | 51 mg, 76% | CNC=1SC2=C(N1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C14H19BN2O2S
